US04001419
A solution of 1'-benzyl-4-methoxyxanthene-9-spiro-4'-piperidine hydrochloride (3.0 g.) in absolute ethanol (100 ml.) is hydrogenatedusing 5% palladium on carbon catalyst, at 4 atmospheres pressure and 50° C. The catalyst is filtered off and the solvent evaporated to dryness. The residue is crystallised from ethanol-ether to give 4-methoxyxanthene-9-spiro-4'-piperidine, m.p. 214°-216° c.

reactant | 1'-benzyl-4-methoxyxanthene-9-spiro-4'-piperidine hydrochloride | 3.0 g | Cl.C(C1=CC=CC=C1)N1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)OC
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-methoxyxanthene-9-spiro-4'-piperidine | COC1=CC=CC2=C1OC1=CC=CC=C1C21CCNCC1 | C18H19NO2
